US09233979B2
A 200 mL round bottom flask containing 6-chloro-N-ethyl-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-amine (2 g, 4.56 mmol) in THF (30 ml) was cooled to 0° C. under an argon atmosphere and charged with LiHMDS (9.11 ml, 9.11 mmol). The reaction mixture was stirred at 0° C. for 15 minutes. A solution of di-tert-butyl dicarbonate (1.293 g, 5.92 mmol) in THF (10 ml) was added and the reaction mixture warmed to ambient temperature and stirred for 16 h. Water (20 ml) was added and the reaction mixture stirred for an additional 5 minutes. The mixture was extracted with ethyl acetate (3×25 mL). The combined organic fractions were washed with brine (20 mL), dried (MgSO4), filtered and the solvent was evaporated under reduced pressure. The resulting residue was purified by flash column chromatography on silica gel (ISCO; 40 g prepacked) eluting with ethyl acetate/hexanes to afford tert-butyl(6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)(ethyl)carbamate (2.18 g, 4.04 mmol, 89% yield) as a white solid. MS ESI calc'd. For C32H32ClN4O2 [M+H]+ 539. found 539.

reactant | 6-chloro-N-ethyl-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-amine | 4.56 mmol, 2 g | ClC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)NCC | C27H23ClN4
reactant | LiHMDS | 9.11 mmol, 9.11 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | di-tert-butyl dicarbonate | 5.92 mmol, 1.293 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | 20 ml | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | tert-butyl(6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)(ethyl)carbamate | 4.04 mmol, 2.18 g, 89% yield | C(C)(C)(C)OC(N(CC)C1=NN(C2=C1C=NC(=C2)Cl)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C32H31ClN4O2
